Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
chromium
 
Attending: ___.
 
Chief Complaint:
"I've been thinking about killing myself and my kids"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The below HPI is from the initial ED psychiatry consult note by
the resident psychiatrist ___, MD, and the attending
psychiatrist ___, MD, on ___:

"Patient is a ___ woman with a past history of
gestational DM, HTN, and postpartum depression, with 1 prior
suicide attempt at age ___, multiple prior psychiatric
hospitalizations as teenager, presenting with suicidal and
homicidal ideation.

"Patient states that she has had postpartum depression since she
had her first child ___ years ago. She states that she never felt
like a good mother. She had 4 miscarriages in between her
children, which she describes as very emotionally difficult.
After she had her ___ child ___ years ago, things got even worse
and she started to have occasional thoughts of killing herself
and killing her children. Her daughter was very fussy and would
not take a bottle which was very stressful. She states that
initially, these thoughts of hurting her children were intrusive
unwanted thoughts. She recounts one instance in which she had a
thought pop into her head about her 3 month old daughter, ___
she should sleep in the freezer." She states that she 
immediately
thought, "well, that's fucked up" and didn't actually want to 
put
her daughter in the freezer. However, she states that over the
past 2 months, she has had serious thoughts of killing herself
and her children, and instead of feeling like intrusive unwanted
thoughts, they now feel like "a solution to a problem." She
states that she thinks of killing herself often and considers
plans, such as slitting her wrists or driving into traffic or
over a cliff. She states that the one problem with her plan is
that she would not want to leave her children motherless. Thus,
she feels as if the only solution to this problem is to kill her
children and herself. She states that she doesn't really want to
hurt her children, but feels as if she has no other option. She
states that these thoughts of hurting her children used to be
distressing to her, and now they feel like a relief and like a
solution to a difficult problem. She started lexapro in ___ of
this year, which helped with these thoughts, but then they came
back about 2 months ago. She feels hopeless, impulsive, and 
"like
I'm losing control over my behavior and thinking." She states
that her anger and rage are getting worse. She went to marriage
counseling this morning and said something about wanting to kill
herself, and the counselor suggested that she come in to the ED.
Patient is afraid of what she would do if she went home. She is
afraid she might go through with killing herself and her
children.

She describes feeling like "a broken person." She feels sad,
ashamed, and angry all the time. She has has problems with anger
since she was a child, but used to be able to control it very
well. She states that in the past ___ years, she has become less 
in
control and more angry. She screams and throws things. She got
mad at her son a couple of months ago when he wasn't going to
bed, and threw him down on the bed. She states that he did not
get hurt, and she didn't throw him very hard, but that she was
angry. She told her therapist this and ___ is involved.

She has a significant past history of trauma. She states that 
her
mother was "a crazy alcoholic and a scary person" and that she
was emotionally and physically abusive to her, her sister, and
father. Patent attempted suicide by OD at ___. She ran away
several times in her teenage years. Once she got all the way to
___ (from ___ for several months. She was using many
drugs at this time, including heroin, LSD, cocaine, and alcohol.
She reports multiple episodes of sexual assault during this 
time.
When she was finally found by her family, she was hospitalized 
at
___ which started a string of several hospitalizations over
the course of her teenage years. Despite this, she was able to 
go
to college and function remarkably well - she has a stable job,
has been married for ___ years, and has 2 children. She states 
that
she was doing well until she had children, and since then things
have being going steadily downhill."

When seen by psychiatry upon arrival to ___ 4, Ms. ___
described herself as "shattered," but said that she had been 
able
to continue functioning recently -- including making sure that
her children have been dressed and fed. She denied any current
intent or plan to harm herself or her children -- today, at the
time of her interview. However, she said that she, "could plan 
to
kill myself." And she stated that, "there is not another 
option."
She said that she was closer to killing herself than killing her
children, and explained that "70% of the time," she plans to 
kill
herself and it is, "on my list of things to do." She also talked
about a recent drive to ___, which she described as involving
"angry, reckless driving." She said she had not "gone shopping,"
and denied purchasing any equipment to harm herself, but said 
she
had been googling and had read about, "walking into the ocean." 

In terms of her feelings about her children and her parenting,
she states that her children are her "sweet baby bears," but she
feels overwhelmed, and feels she is failing on a level that is,
"irreparable," and "unforgivable," and that they, "need to be
relieved of me." At one point during the interview, she stated,
"we made a mistake" (by having kids) and said the only solution
was to "f---ing extinguish the whole thing." She also describes
feeling chronically angry, "enraged all the time," and with "no
control over myself."

Collateral Contacts:
___, patient's husband, ___

==================
REVIEW OF SYSTEMS:
==================
Psychiatric ROS:
  +anxiety, +anger, +poor sleep, +hopelessness, +guilt,
+worthlessness, +helplessness, +weight change (gain, since
___), +fatigue, +decreased motivation (but domain specific,
still able to dress & feed her clothes), +poor concentration,
+poor memory (loses train of thought if interrupted at all)
  PTSD ROS: affirms trauma, denies nightmares, denies flashbacks
  psychotic ROS: negative

Medical ROS:
  +fatigue/drowsiness, +sweating (since starting Lexapro),
+weight gain (since ___), +skin changes (eczema, mainly 
feet),
+joint pain (knee), +headaches, +heat intolerance

10 point medical review of systems otherwise negative

 
Past Medical History:
=========================
PAST PSYCHIATRIC HISTORY:
========================= 
Diagnoses: ?potentially bipolar diagnosed as teenager, PTSD,
postpartum depression
Hospitalizations: multiple hospitalizations as teenager.
___, ___.
Current treaters and treatment: 
 - prescriber: at ___ in ___, seen twice, ___ 
___
(psychiatric NP).
 - ___, Marriage counselor at ___.
Medication and ECT trials: multiple med trials as teenager
(lithium, stellazine, prozac, Zoloft). Recently was on 
bupropion,
but stopped over one year ago. 
Self-injury: 1 suicide attempt at ___, ODed to age ___. Ran
away to ___ twice (from ___ was picked up by police
both times. Was running away from her mom. Cutting as teenager.
Describes recklessly driving in ___ recently. 
Harm to others: "I have anger problems" and she describes
occasionally getting angry with children and handling them
"roughly" but has never actually hurt anyone.

=====================
PAST MEDICAL HISTORY:
===================== 
 - obesity
 - hypertension
 - eczema
 - gestational diabetes
 - renal calculi (per OMR hx)
 - tobacco abuse (per OMR hx)
 - vulvar pruritus (per OMR hx)

=================
HOME MEDICATIONS:
================= 
verified with patient on ___:
 - escitalopram 10mg PO daily (since ___
    - last filled: ___
    - prescriber: ___ RN/NP ___
    - pharmacy: ___ PHARMACY / ___  
 - clobatesol propionate 0.05% ointment BID (for eczema)
 - cetirizine 10 mg PO daily PRN (for season allergies)

========== 
ALLERGIES:  
==========
 - chromium (verified ___ by ___
 
Social History:
===============
SOCIAL HISTORY:
=============== 
Born/Raised: Grew up in ___ with mother and father and
sister. Mother was "violent angry drunk crazy person." She
described herself as the ___ in the family. Mother was
physically and verbally abusive to father and patient and 
sister.
Patient ran away many times as child. Multiple suicide attempts
and psychiatric hospitalizations.
Relationship status: married x ___ years with 2 children, ages ___
and 1.5
 - ___, ___
 - ___, ___ year-old
Support System: husband (although there is a lot of conflict in
the marriage)
Occupation: ___
Living situation: lives with husband and 2 children
Education: ___ in ___
Trauma/Abuse: physical and emotional abuse from mother
Military history: ___
Access to weapons: none

========================
SUBSTANCE ABUSE HISTORY:
========================  
Lots of drug use as teenager - crystal meth, LSD, cocaine,
heroin. Stopped using drugs in ___. Now smokes marijuana daily.
EtOH ___ drinks per week

=================
FORENSIC HISTORY:
=================  
Arrests: arrested at ___ for "possession of a needle" in ___ -
___ to "juvie"
Convictions and jail terms: no other jail terms besides 30 days
in "juvie" at ___
Current status (pending charges, probation, parole) none
 
Family History:
Psychiatric Diagnoses: "personality disorder" in sister
___ Use ___: EtOH use disorder in mother, sister
Completed ___ & Suicide Attempts: as teenager, best friend
and therapist both committed suicide. No family history of
suicide.
 
Physical Exam:
VITAL SIGNS:
___ 2149 Temp: 98.4 PO BP: 144/90 HR: 66 RR: 17 O2 sat: 99% 


 - HEENT: Normocephalic, atraumatic. Moist mucous membranes,
oropharynx clear.
 - Cardiovascular: Regular rate and rhythm, normal S1,S2, no
murmurs/rubs/gallops. 
 - Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally, though lung sounds somewhat coarse. No
wheezes/rhonchi/rales.
 - Abdominal: Normoactive bowel sounds. Abdomen soft, nontender,
nondistended. No guarding, no rebound tenderness.
 - Extremities: Warm and well-perfused.  No lower extremity
edema. Intact peripheral pulses. 
 - Skin: No bruising, rashes or lesions noted

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: Pupils equal, round, reactive to light
 ---III, IV, VI: Extraocular movements intact. No nystagmus.
 ---V: Masseter intact bilaterally.
 ---VII: Nasolabial folds symmetric bilaterally; smile symmetric
bilaterally. 
 ---VIII: Hearing intact to quiet finger rub bilaterally 
 ---IX, X: Palate elevates symmetrically
 ---XI: trapezii ___ symmetric bilaterally
 ---XII: Tongue protrudes midline.
 -Motor: Normal bulk and tone bilaterally. Strength ___ in
deltoids, biceps, triceps. 
 -Sensory: Deferred
 -DTRs: ___
 ___: Normal on finger to nose test. No intention
tremor. 
 -Gait: Intact, narrow-based gait with normal initiation. 

Absence of resting tremor,
Absence of rigidity or spasticity.

Cognition: 
 -Wakefulness/alertness: Fully awake and alert.
 -Attention: Attention fully intact to interview. 
 -Orientation: Fully oriented to situation in psychiatric
hospital, date, persons, and location: ___ and ___.
 -Memory: Memory intact to recent events. Not formally tested. 
 -Fund of knowledge: Intact to ___, ___, "___."
 -Calculations: Deferred
 -Abstraction: Deferred
 -Language: Fluent Native ___ speaker, without paraphasic
errors or word finding difficulties. 

Mental Status:
 -Appearance/Behavior: Moderately well-groomed somewhat
overweight woman with blonde hair, wearing glasses and a 
hospital
gown. 
 -Attitude: Open and engaged in interview. Good eye contact
throughout interview. 
 -Mood: "Shattered."
 -Affect: Affect is appropriately reactive to situation and
topic, somewhat subdued for most of interview, but enacts
irritable and distressed affect when describing her anger and
feelings of being overwhelmed. 
 -Speech: Normal rate, volume, and tone.
 -Thought process: Coherent, goal-directed, and logical thought
process. No loosening of associations. 
 -Thought Content: Denies any current plan or intent to harm
herself or her children -- at the time of the interview. 
However,
she does state that she often thinks about harming herself and
her children ("f---ing extinguish the whole thing")
 ---Delusions: No evidence of delusions.
 ---Obsessions/Compulsions: No evidence based on current
encounter.
 ---Hallucinations: Denies. 
 -Perceptual disturbances: No evidence that patient is 
responding
to internal stimuli. 
 -Insight: Fair. 
 -Judgment: Poor to fair (has been going to marriage counseling
"for years," and affirms that she would benefit from greater
level of care, but also recently engaged in reckless angry
driving in ___). 

 
Pertinent Results:
LABS
blood:
___ 02:00PM BLOOD WBC: 8.3 RBC: 4.76 Hgb: 13.6 Hct: 41.8
MCV: 88 MCH: 28.6 MCHC: 32.5 RDW: 13.4 RDWSD: 43.___ 
___ 02:00PM BLOOD Neuts: 66.5 Lymphs: ___ Monos: 6.1 Eos:
1.4 Baso: 0.5 Im ___: 0.2 AbsNeut: 5.52 AbsLymp: 2.10 AbsMono:
0.51 AbsEos: 0.12 AbsBaso: 0.04 
___ 02:00PM BLOOD Plt Ct: 255 
___ 02:00PM BLOOD Glucose: 150* UreaN: 16 Creat: 0.8 Na: 
141
K: 4.0 Cl: 102 HCO3: 26 AnGap: 13 

urine:
___ 02:30PM URINE Color: Straw Appear: Clear Sp ___: 1.014 

___ 02:30PM URINE Blood: NEG Nitrite: NEG Protein: NEG
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: NEG pH: 6.0 
Leuks:
NEG 

serum toxicology:
___ 02:00PM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG
Tricycl: NEG 

urine toxicology:
___ 02:30PM URINE bnzodzp: NEG barbitr: NEG opiates: NEG
cocaine: NEG amphetm: NEG oxycodn: NEG mthdone: NEG 

other studies:
___ 02:30PM URINE UCG: NEGATIVE 

___ 05:40AM BLOOD Glucose-94 UreaN-14 Creat-0.7 Na-140 
K-4.3 Cl-103 HCO3-25 AnGap-12
___ 05:40AM BLOOD ALT-15 AST-12 AlkPhos-56 TotBili-0.2
___ 05:40AM BLOOD Calcium-9.6 Phos-4.1 Mg-2.0 Cholest-182
___ 05:40AM BLOOD %HbA1c-5.6 eAG-114
___ 05:40AM BLOOD Triglyc-177* HDL-39* CHOL/HD-4.7 
LDLcalc-___. LEGAL & SAFETY: 
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was also placed on q15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted. She did not 
require physical or chemical restraints during this 
hospitalization. 
 
2. PSYCHIATRIC:
Upon admission, the patient reported numerous depressive 
symptoms including feelings of guilt and worthlessness, poor 
sleep ___ hours per night), fatigue with "chaotic" and variable 
energy level, poor concentration and working memory, and weight 
gain since the ___. She endorsed feelings of hopelessness and 
helplessness about her future, and continued to believe that 
killing herself and her children may be the only option. In 
addition, she
reported feeling "tortured," angry, and often "enraged," with 
frequent SI and HI. 

The patient’s presentation was concerning for Unspecified 
Depressive Disorder and concern for PTSD. 

She had previously been on Prozac, Zoloft (both with inadequate 
effects) and Wellbutrin in ___. And her outpatient Lexapro was 
titrated recently to 15 mg qd with recurring SI and HI and side 
effect of anorgasmia. Therefore, restarted Lexapro at lower dose 
of 10 mg daily. Also started Wellbutrin to mitigate sexual side 
effects and as adjunct for depression. Patient was in agreement 
with plan, so started Wellbutrin XL 150 mg daily. Further 
offered addition mood stabilizer, and started patient on Abilify 
2 mg QHS for her anxiety, impulsivity, and anger. The patient 
tolerated the addition of medications and changes in dose well 
and found it to be helpful for her mood. Lastly, Trazodone 25 mg 
QHS was added for sleep, which patient would intermittently 
utilize. 

At time of discharge, patient's reported  that her mood was 
"good to up" and she had bright affect. She no longer endorsed 
SI or HI and was able to have meaningful conversation about 
safety planning. Patient further spontaneously developed a plan 
to preventatively work on her anxiety, stress, and frustration. 
She offered specific ideas of using meditation, yoga, reading, 
and taking time for herself after her children have fallen 
asleep in the evenings. She had met with her husband and 
children in the hospital, and felt that she was better able to 
emotionally regulate, and was no longer having self-critical or 
catastrophizing thoughts. 

3. SUBSTANCE USE DISORDERS:
#Cannabis Use Disorder
- Provided education regarding deleterious effects of substance 
use on medical and psychiatric health. Also provided individual 
and group therapy, focused on sobriety and coping skills 
regarding substance use

4. MEDICAL
#HTN:
- Monitored BP while inpatient but did not start any medications 
given that patient is not on anti-hypertensives at home.
 
5. PSYCHOSOCIAL
#) GROUPS/MILIEU: 
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. She was often visible in the 
milieu and was appropriate in her interaction with peers and 
staff without ever requiring restraint or seclusion. 
 
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
The patient’s family was involved in the patients’ treatment and 
discharge planning, and was provided with the opportunity to 
discuss the patient’s diagnosis and treatment with the primary 
treatment team. The patient’s family was supportive of the 
patient’s treatment and aftercare plan.  Completed family 
meeting on ___ with patient's husband. 
 
#) INTERVENTIONS
- Medications: Lexapro, Wellbutrin, Trazodone, Abilify 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: follow-up with outpatient PCP, 
___, and psychiatrist; may also consider utilization of 
___ (___ alliance for mental illness) for support groups 
- Behavioral Interventions: patient would benefit from 
consistent outpatient therapy
- Guardianships: N/A
 
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  
 
RISK ASSESSMENT & PROGNOSIS
 
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon SI 
with plan and HI towards her children.  Her risk factors noted 
at that time included major depressive disorder, chronic 
suicidal ideation (often re: method), hopelessness, 
helplessness, recent deliberately angry reckless driving in ___ 
___, trauma history, family stress (marriage/children & 
families of origin of herself and her husband).  Modifiable risk 
factors were addressed during hospitalization via medication 
management, psychotherapeutic intervention, and aftercare 
coordination.  The patient is being discharged with many 
protective risk factors, including marriage counseling ___ 
Group), psychiatric care ___ Group), help-seeking attitude, no 
recent loss, and good problem solving skills. Given the above, 
my overall assessment is that the patient's suicide risk at time 
of discharge is moderate. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 150 mg PO DAILY 
2. Albuterol Inhaler ___ PUFF IH Q4-6H:PRN shortness of breath 
3. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID 
4. GuaiFENesin-CODEINE Phosphate ___ mL PO Q4-6H:PRN cough 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
6. Cetirizine 10 mg PO DAILY 
7. NeilMed NasaFlo (sod bicarb-sod chlor-neti pot)    nasal 
rinse BID 
8. Escitalopram Oxalate 10 mg PO DAILY 

 
Discharge Medications:
1.  ARIPiprazole 2 mg PO QHS refractory depression 
RX *aripiprazole [Abilify] 2 mg 1 tablet(s) by mouth nightly 
Disp #*14 Tablet Refills:*0 
2.  TraZODone 25 mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth nightly 
Disp #*7 Tablet Refills:*0 
3.  Albuterol Inhaler ___ PUFF IH Q4-6H:PRN shortness of breath  

4.  BuPROPion (Sustained Release) 150 mg PO DAILY 
RX *bupropion HCl 150 mg 1 tablet(s) by mouth once a day Disp 
#*14 Tablet Refills:*0 
5.  Cetirizine 10 mg PO DAILY 
RX *cetirizine [24Hour Allergy] 10 mg 1 tablet(s) by mouth once 
a day Disp #*14 Tablet Refills:*0 
6.  Clobetasol Propionate 0.05% Ointment 1 Appl TP BID  
7.  Escitalopram Oxalate 10 mg PO DAILY 
RX *escitalopram oxalate 10 mg 1 tablet(s) by mouth once a day 
Disp #*14 Tablet Refills:*0 
8.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
9.  GuaiFENesin-CODEINE Phosphate ___ mL PO Q4-6H:PRN cough  
10.  NeilMed NasaFlo (sod bicarb-sod chlor-neti pot)    nasal 
rinse BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified Depressive Disorder
Major depressive disorder recurrent severe vs. Bipolar disorder, 
most recent episode depressed.
PTSD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
On the day of discharge, Ms. ___ reported feeling well. She 
denied excessive level of anxiety. She placed level of anxiety 
at ___. Reported good mood. She clearly denied S/H/I. She 
reported about several protective factors. She asked good 
questions about follow up appointments. She plans to see her 
psychopharm provider ___ ___.  Ms. ___ also expressed 
understanding about appropriate steps in ___ of emergency.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___